US05834506
(S)-4-Hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-6-isopropyl-5,6-dihydro-pyran-2-one
The title compound was prepared using (S)-3-hydroxy-3-[2-(4-hydroxy-phenyl)-ethyl]-4-methyl-pentanoic acid (0.45 g, 1.78 mmol) from Example UUUU, THF (10 mL), and CDI (0.58 g, 3.58 mmol). The reaction was stirred overnight at room temperature then added to bis[3-ethoxy-3-oxopropanoato(1-)-O,O']-magnesate (1.5 g, 5.2 mmol) from Example VVVV and the reaction stirred for 3 days at room temperature. The reaction was concentrated and the residue partitioned between ethyl acetate and 1N HCl. The organic layer was washed with aqueous NaHCO3 and brine, dried (MgSO4) and concentrated.

reactant | (S)-3-hydroxy-3-[2-(4-hydroxy-phenyl)-ethyl]-4-methyl-pentanoic acid | 1.78 mmol, 0.45 g | O[C@@](CC(=O)O)(C(C)C)CCC1=CC=C(C=C1)O | C14H20O4
reactant | CDI | 3.58 mmol, 0.58 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-4-Hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-6-isopropyl-5,6-dihydro-pyran-2-one | OC1=CC(O[C@@](C1)(C(C)C)CCC1=CC=C(C=C1)O)=O | C16H20O4
